US04985555
To a solution of phosphorus pentachloride (57 g) in methylene chloride (1 () was added pyridine (22 ml) at -20° C. and the mixture was stirred for 30 minutes at -20° C. p-Nitrobenzyl 7-(2-phenylacetamido)-3-mesyloxy-3-cephem-4-carboxylate (50 g) was added to the solution at 5° C. and stirred at the same temperature for 1 hour. Methanol (56 ml) was added to the solution at -30° C. and stirred at -15° C. for 30 minutes. To the solution were added pyridine (80 ml) and diisopropylethylamine (31.4 ml) at -30° C. 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetyl chloride hydrochloride (syn isomer) (26.7 g) was added to the solution at -30° C. by portions and stirred at -15° C. for 1 hour Water (1 l) was added to the solution and stirred for 30 minutes. A resultant precipitate was collected by filtration and washed with diisopropyl ether and air-dried to give p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylate (syn isomer) (40 g).

reactant | phosphorus pentachloride | 57 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | p-Nitrobenzyl 7-(2-phenylacetamido)-3-mesyloxy-3-cephem-4-carboxylate | 50 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O9S2
reactant | diisopropylethylamine | 31.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetyl chloride hydrochloride | 26.7 g | Cl.NC1=NC(=NS1)C(C(=O)Cl)=NOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | 1 l | O | H2O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | Methanol | 56 ml | CO | CH4O
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | p-nitrobenzyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylate | 40 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC | C21H21N7O10S3
